US05272047
V. 2-Amino-3-hydroxy-5-isopropylsulfamoyl-6-(2-mesyloxy-4-nitrophenylazo)pyridine
Sodium nitrite (3.6 g) was dissolved in concentrated sulfuric acid (25 ml) with slight warming. After cooling the solution was diluted with a mixture of acetic and propionic acids (5/1 50 ml). 2-Mesyloxy- 4-nitroaniline (11.6 g) was added portionwise with vigorous stirring. After 2 hours another portion of 5/1 acid was added and the diazonium solution kept at 5° C. while a solution of 2-amino-3-hydroxy-5-isopropylsulfamoylpyridine (11.5 g) in aqueous acetic acid (1/1 500 ml) containing sodium acetate (100 g) was being prepared. The diazonium solution was slowly added to the coupler solution at 5° C. and the reaction mixture stirred for 1 hour and then diluted with water. The dye was filtered off washed with a large volume of water and dried in a vacuum oven. Yield 26.8 g of the desired material and some inorganic salts.

reactant | Sodium nitrite | 3.6 g | N(=O)[O-].[Na+]
reactant | 2-Mesyloxy- 4-nitroaniline | 11.6 g | S(=O)(=O)(C)OC1=C(N)C=CC(=C1)[N+](=O)[O-] | C7H8N2O5S
reactant | 2-amino-3-hydroxy-5-isopropylsulfamoylpyridine | 11.5 g | NC1=NC=C(C=C1O)S(NC(C)C)(=O)=O | C8H13N3O3S
reactant | sodium acetate | 100 g | C(C)(=O)[O-].[Na+]
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-Amino-3-hydroxy-5-isopropylsulfamoyl-6-(2-mesyloxy-4-nitrophenylazo)pyridine | NC1=NC(=C(C=C1O)S(NC(C)C)(=O)=O)N=NC1=C(C=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C | C15H18N6O8S2
